US07105567B2
By the reaction and treatment in the same manner as in Example 2 using (4-isopropylphenyl)[(4-trifluoromethylphenyl)methyl]amine (2.4 g) and 2,6-diisopropylphenyl isocyanate (2.1 g) as starting materials, N′-(2,6-diisopropylphenyl)-N-(4-isopropylphenyl)-N-[(4-trifluoromethylphenyl)methyl]urea (1.4 g) was obtained.

reactant | (4-isopropylphenyl)[(4-trifluoromethylphenyl)methyl]amine | 2.4 g | C(C)(C)C1=CC=C(C=C1)NCC1=CC=C(C=C1)C(F)(F)F | C17H18F3N
reactant | 2,6-diisopropylphenyl isocyanate | 2.1 g | C(C)(C)C1=C(C(=CC=C1)C(C)C)N=C=O | C13H17NO
product | N′-(2,6-diisopropylphenyl)-N-(4-isopropylphenyl)-N-[(4-trifluoromethylphenyl)methyl]urea | 1.4 g | C(C)(C)C1=C(C(=CC=C1)C(C)C)NC(N(CC1=CC=C(C=C1)C(F)(F)F)C1=CC=C(C=C1)C(C)C)=O | C30H35F3N2O
